US05424451
a) Preparation of 6-(N-methylpiperazinyl)hexylphthalimide
6-Bromohexylphthalimide (460 mg; 2.0 mmoles) and N-methylpiperazine (0.44 ml; 4.0 mmoles) were dissolved in anhydrous ethyl ether (5 ml). Reaction times and process as per Example 1.

reactant | 6-Bromohexylphthalimide | 2.0 mmoles, 460 mg | BrCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C14H16BrNO2
reactant | N-methylpiperazine | 4.0 mmoles, 0.44 ml | CN1CCNCC1 | C5H12N2
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 6-(N-methylpiperazinyl)hexylphthalimide | CN1C(CNCC1)CCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C19H27N3O2
